US04607030
(f) 2-Aminomethyl-4-(1,1-dimethylethyl)-6-sulfamoylphenol hydrochloride
3 g (0.008 mole) of 2-chloro-N-[5-(1,1-dimethylethyl)-3 -dimethylaminomethyleneaminosulfonyl-2-hydroxybenzyl]-acetamide in a mixture of 30 ml of ethanol and 3 ml of concentrated hydrochloric acid are heated under reflux for 2 hours. The solvent is removed in vacuo and the residue is crystallized from methanol/ether.

reactant | 2-chloro-N-[5-(1,1-dimethylethyl)-3 -dimethylaminomethyleneaminosulfonyl-2-hydroxybenzyl]-acetamide | 0.008 mole, 3 g | ClCC(=O)NCC1=C(C(=CC(=C1)C(C)(C)C)S(=O)(=O)N=CN(C)C)O | C16H24ClN3O4S
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 3 ml | Cl | ClH
product | 2-Aminomethyl-4-(1,1-dimethylethyl)-6-sulfamoylphenol hydrochloride | Cl.NCC1=C(C(=CC(=C1)C(C)(C)C)S(N)(=O)=O)O | InChI=1S/C11H18N2O3S.ClH/c1-11(2,3)8-4-7(6-12)10(14)9(5-8)17(13,15)16;/h4-5,14H,6,12H2,1-3H3,(H2,13,15,16);1H
